US08557834B2
N-({1-Cyclohexyl-3-[(2,3-difluorophenyl)methyl]-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (750 mg, 5.35 mmoles) and 2,3-difluorobenzyl bromide (255 uL, 2.0 mmoles) in dimethylacetamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The combined organic solutions were washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (3.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Recrystallization from ethanol-water gave the title compound (140 mg, 32%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.10 (br. s., 1 H), 10.11 (br. s., 1 H), 7.25-7.43 (m, 1 H), 7.08-7.23 (m, 1 H), 7.03 (t, J=7.07 Hz, 1 H), 5.08 (s, 2 H), 4.55-4.73 (m, 1 H), 4.13 (d, J=5.81 Hz, 2 H), 2.12-2.35 (m, 2 H), 1.78 (d, J=12.63 Hz, 2 H), 1.63 (s, 3 H), 1.20-1.38 (m, 2 H), 1.02-1.18 (m, 1 H)

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 5.35 mmoles, 750 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-difluorobenzyl bromide | 2.0 mmoles, 255 uL | FC1=C(CBr)C=CC=C1F | C7H5BrF2
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | N-({1-Cyclohexyl-3-[(2,3-difluorophenyl)methyl]-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 140 mg, 32% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=C(C(=CC=C1)F)F)=O | C20H21F2N3O6
